US07388061B2
To 0.1 mol 2,2-dimethyl-glutaric acid were added 0.3 mol ethanol, 40 ml toluene, and 0.4 ml concentrated sulfuric acid with stirring. The mixture was heated refluxing, and the water produced was removed by using a water separator until the amount of the water separated reached theoretical value. The mixture was neutralized with saturated sodium carbonate solution and extracted with ethyl acetate. The upper layer solution was separated, washed with saturated saline until being neutral, and dried over anhydrous sodium sulfate. After the solvent was removed, distillation under reduced pressure gave diethyl 2,2-dimethylglutarate as a colorless liquid, and the yield was 90%.

reactant | 2,2-dimethyl-glutaric acid | 0.1 mol | CC(C(=O)O)(CCC(=O)O)C | C7H12O4
reactant | ethanol | 0.3 mol | C(C)O | C2H6O
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
reactant | sulfuric acid | 0.4 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | diethyl 2,2-dimethylglutarate | yield was 90% | CC(C(=O)OCC)(CCC(=O)OCC)C | C11H20O4
